US07772226B2
(a) Ethyl 2-bromo-3-(2-butynyl)-5-cyano-3H-imidazole-4-carboxylate
4.56 ml of sulfuric acid was added to 170 ml of ethanol containing 16.80 g of 2-bromo-1H-imidazole-4,5-dicarbonitrile [CAS No. 50847-09-1], and the mixture was heated under reflux for 48 hours. The solution was cooled, and then 500 ml of ethyl acetate and 200 ml of water were added thereto. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide, and 14.1 g of potassium carbonate and 8.6 ml of 2-butynyl bromide were added thereto. The mixture was stirred at room temperature for 18 hours. 500 ml of ethyl acetate was added to the solution, and the mixture was washed three times with 300 ml of water, and then with 300 ml of a saturated sodium chloride solution. Then, the solution was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 4.09 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (9:1).

reactant | sulfuric acid | 4.56 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 170 ml, 16.80 g | C(C)O | C2H6O
reactant | 2-bromo-1H-imidazole-4,5-dicarbonitrile | BrC=1NC(=C(N1)C#N)C#N | C5HBrN4
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | Ethyl 2-bromo-3-(2-butynyl)-5-cyano-3H-imidazole-4-carboxylate | 4.09 g | BrC1=NC(=C(N1CC#CC)C(=O)OCC)C#N | C11H10BrN3O2
